US04661512
N-[Adamantan-1-yl]-(L)-Pyroglutamide (I; R=H)
10 g of (L)-pyroglutamic acid (77 mmol) and 10.7 ml of triethylamine are mixed with 100 ml of anhydrous acetone, 9.29 g of pivaloyl chloride (77 mmol) are run in slowly at -5° and then, after 15 minutes at 0° C., 11.65 g (77 mmol) of adamantanamine are added in several portions.

reactant | (L)-pyroglutamic acid | 77 mmol, 10 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | triethylamine | 10.7 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 77 mmol, 9.29 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | adamantanamine | 77 mmol, 11.65 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-[Adamantan-1-yl]-(L)-Pyroglutamide | C12(CC3CC(CC(C1)C3)C2)N2[C@@H](CCC2=O)C(=O)N | C15H22N2O2
